US07585875B2
2-Isopropyl-pyrazolo[1,5-a]pyridine (18.42 g, 115 mmol) and N-iodosuccinimide (28.45 g, 126 mmol) were dissolved in a mixture of 1,2-dichloroethane (300 ml) and tetrahydrofuran (300 ml). The mixture was stirred at reflux for 18 hours. The mixture was cooled and concentrated in vacuo. The crude material was purified by silica gel flash chromatography (0 to 20% ethyl acetate in hexanes) to give 30.9 g (94%) of 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine. 1H-NMR (250 MHz, CDCl3) δ 8.36 (d, J=7.0 Hz, 1H), 7.36 (d, J=9.0 Hz, 1H), 7.12 (t, J=7.9 Hz, 1H), 6.67 (t, J=7.6 Hz, 1H), 3.20 (sept, J=7.0 Hz, 1H), 1.37 (d, J=6.8 Hz, 6H).

reactant | 2-Isopropyl-pyrazolo[1,5-a]pyridine | 115 mmol, 18.42 g | C(C)(C)C1=NN2C(C=CC=C2)=C1 | C10H12N2
reactant | N-iodosuccinimide | 126 mmol, 28.45 g | IN1C(CCC1=O)=O | C4H4INO2
solvent | 1,2-dichloroethane | 300 ml | ClCCCl | C2H4Cl2
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
product | 3-iodo-2-isopropyl-pyrazolo[1,5-a]pyridine | 30.9 g, 94% | IC=1C(=NN2C1C=CC=C2)C(C)C | C10H11IN2
